US06277847B1
Step A Preparation of 2-(1-methylethyl)-4-nitroisoindolin-1-one
A stirred solution of 5.9 grams (0.030 mole) of methyl 2-methyl-3-nitrobenzoate and 5.3 grams (0.030 mole) of NBS in 120 mL of carbon tetrachloride was exposed to uv light for about 18 hours. The reaction mixture was cooled and filtered to remove a solid material. The filtrate was concentrated under reduced pressure to a residue. The residue was the intermediate methyl 2-bromomethyl-3-nitrobenzoate, as determined by NMR analysis. The intermediate 2-bromomethyl compound was slowly added to 60 mL of diethyl ether, and the resulting solution was in turn added dropwise to 40 mL of stirred 1-methylethylamine at 25° C. Upon completion of addition, the reaction mixture was stirred at 25° C. for about 18 hours. The reaction mixture was then concentrated under reduced pressure to remove excess 1-methylethylamine. The resultant solid was washed with aqueous dilute hydrochloric acid and dried, yielding 6.0 grams of subject compound, mp 150-152 C. The NMR spectrum was consistent with the proposed structure.

reactant | methyl 2-methyl-3-nitrobenzoate | 0.030 mole, 5.9 grams | CC1=C(C(=O)OC)C=CC=C1[N+](=O)[O-] | C9H9NO4
reactant | NBS | 0.030 mole, 5.3 grams | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | carbon tetrachloride | 120 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-(1-methylethyl)-4-nitroisoindolin-1-one | 6.0 grams | CC(C)N1C(C2=CC=CC(=C2C1)[N+](=O)[O-])=O | C11H12N2O3
